US05229267
Step B: Preparation of benzofuran-5-ylacetic acid
Methyl benzofuran-5-ylacetate (1.2 gm, 6.3 mmol) was dissolved in methanol (10 mL) and 2N sodium hydroxide (6.5 mL) was added under nitrogen and the mixture was stirred at rt for 3 hr. It was then diluted with water and extracted with ether. The aqueous layer was acidified with 2N hydrochloric acid and again extracted twice with ethyl acetate. The organic layers were washed with brine, combined, dried over sodium sulfate and evaporated to give 1.1 gm of title compound suitable for the next step.

reactant | Methyl benzofuran-5-ylacetate | 6.3 mmol, 1.2 gm | O1C=CC2=C1C=CC(=C2)CC(=O)OC | C11H10O3
reactant | sodium hydroxide | 2N, 6.5 mL | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | water | O | H2O
product | benzofuran-5-ylacetic acid | 1.1 gm | O1C=CC2=C1C=CC(=C2)CC(=O)O | C10H8O3
